US08044236B2
(1) Preparation of 5-bromo-2-[(trifluoromethoxy)phenoxy]benzaldehyde
A mixture of 5-bromo-2-fluorobenzaldehyde (1.07 g, 5.280 mmol), 4-(trifluoromethoxy)phenol (940 mg, 5.280 mmol), potassium carbonate (1.46 g, 10.560 mmol), copper(II) oxide (420 mg, 5.280 mmol) and pyridine (10 ml) was stirred at 180° C. for 6 hours. The reaction mixture was cooled to room temperature and filtered through celite. The filtrate was diluted with water, extracted with water and saturated brine, and dried over anhydrous sodium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=6:1) to give the title compound (1.58 g, 83.1%) as a brown oil.

reactant | 5-bromo-2-fluorobenzaldehyde | 5.280 mmol, 1.07 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | 4-(trifluoromethoxy)phenol | 5.280 mmol, 940 mg | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | potassium carbonate | 10.560 mmol, 1.46 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(II) oxide | 5.280 mmol, 420 mg | [Cu]=O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-bromo-2-[(trifluoromethoxy)phenoxy]benzaldehyde | 1.58 g, 83.1% | BrC=1C=CC(=C(C=O)C1)OC1=C(C=CC=C1)OC(F)(F)F | C14H8BrF3O3
